US04129576
reacting 6,7-dihydroxy-2,3,-dihydrobenzofuran with malic acid to form 2,3-dihydroxanthotoxol,

reactant | 6,7-dihydroxy-2,3,-dihydrobenzofuran | OC1=C(C2=C(CCO2)C=C1)O | C8H8O3
reactant | malic acid | C(C(O)CC(=O)O)(=O)O | C4H6O5
product | 2,3-dihydroxanthotoxol | C1COC2=C1C=C3C=CC(=O)OC3=C2O | C11H8O4
